US04757102
[N,N-Dibenzylaminoxymethyl]dimethylamine
A mixture of 4.86 g of dibenzylhydroxylamine, 2.42 g of anhydrous sodium carbonate and 4.22 g of N,N-dimethylmethyleneammoniumiodide in 50 ml of methylene chloride is stirred at room temperature under N2 for 48 hrs. After removal of the insoluble inorganic residue by filtration, the solution is concentrated under reduced pressure. The resulting residue is treated with heptane to extract the product. Removal of the combined heptane extracts affords the product as a thick oil.

reactant | dibenzylhydroxylamine | 4.86 g | C(C1=CC=CC=C1)N(O)CC1=CC=CC=C1 | C14H15NO
reactant | sodium carbonate | 2.42 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | N,N-dimethylmethyleneammoniumiodide | 4.22 g | [I-].CC=[N+]=CC
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | [N,N-Dibenzylaminoxymethyl]dimethylamine | C(C1=CC=CC=C1)N(OCN(C)C)CC1=CC=CC=C1 | C17H22N2O
